US07393858B2
(iii) 1,1-Dimethylethyl 4-hydroxy-4-(3-hydroxypropyl)-1-piperidinecarboxylate
Palladium on carbon (5%, 800 mg) was added to a solution of 1,1-dimethylethyl 4-hydroxy-4-(3-hydroxypropynyl)-1-piperidinecarboxylate (from step (ii) above; 8.37 g, 32.8 mmol) in ethanol (400 ml), acetic acid (40 ml) and water (5 ml) and the mixture was shaken under an atmosphere of hydrogen (40 psi) for 20 hours. The mixture was filtered through Hyflo™ and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (50:50 increasing to 0:100), to give the title compound (4.84 g, 57%).

reactant | 1,1-dimethylethyl 4-hydroxy-4-(3-hydroxypropynyl)-1-piperidinecarboxylate | OC1(CCN(CC1)C(=O)OC(C)(C)C)C#CCO | C13H21NO4
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | water | 5 ml | O | H2O
catalyst | Palladium on carbon | 800 mg | [Pd] | Pd
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1,1-Dimethylethyl 4-hydroxy-4-(3-hydroxypropyl)-1-piperidinecarboxylate | 4.84 g, 57% | OC1(CCN(CC1)C(=O)OC(C)(C)C)CCCO | C13H25NO4
